US07176242B2
A solution of 1-butylisoquinoline-7-carboxylic acid (325 mg, 1.41 mmol) in methanol (25 mL) containing concentrated sulfuric acid (800 μL) was refluxed overnight. The reaction mixture was then concentrated under reduced pressure, diluted with methylene chloride, washed with water, and saturated sodium chloride. The organic layer was then dried (sodium sulfate), filtered, and concentrated to yield methyl 1-butylisoquinoline-7-carboxylate (350 mg): ESI MS m/z 244 [M+H]+;

reactant | 1-butylisoquinoline-7-carboxylic acid | 1.41 mmol, 325 mg | C(CCC)C1=NC=CC2=CC=C(C=C12)C(=O)O | C14H15NO2
reactant | sulfuric acid | 800 μL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 25 mL | CO | CH4O
product | methyl 1-butylisoquinoline-7-carboxylate | 350 mg | C(CCC)C1=NC=CC2=CC=C(C=C12)C(=O)OC | C15H17NO2
